US08791267B2
To a 40 mL vial equipped with a stir bar was placed 1-iodo-4-nitrobenzene (1.26 g, 5.07 mmol), cesium carbonate (2.20 g, 6.76 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (316 mg, 0.507 mmol), and a solution of (5′-amino-2′-methoxy-biphenyl-3-yl)-ethanone (I-47, Y═H, Z═NH2, R1═CH3, R2═COCH3) synthesized above (816 mg, 3.38 mmol) in toluene (13.5 mL). The mixture was stirred for 10 minutes and then tris(dibenzylideneacetone)dipalladium(0) (310 mg, 0.338 mmol) and the mixture was heated to 110° C. for 16 hours. The reaction was cooled to room temperature and then filtered through Celite. The filtrate was treated with water (40 mL), 1M HCl (40 mL) and then Extracted with ethyl acetate (2×75 mL). The organic portions were combined, washed with brine (75 mL), dried (MgSO4) and concentrated. The crude material was purified by column chromatography utilizing 35% EtOAc/hexanes as the eluent to produce 277 mg of 1-[2′-methoxy-5′-(4-nitro-phenylamino)-biphenyl-3-yl]-ethanone (I-49, Y═H, Q=NH, R1═CH3, R2═COCH3, R3═NO2) as a dark orange solid in 23% yield.

reactant | 1-iodo-4-nitrobenzene | 5.07 mmol, 1.26 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | cesium carbonate | 6.76 mmol, 2.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.507 mmol, 316 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | (5′-amino-2′-methoxy-biphenyl-3-yl)-ethanone | NC=1C=CC(=C(C1)C1=CC(=CC=C1)C(C)=O)OC | C15H15NO2
solvent | toluene | 13.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.338 mmol, 310 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[2′-methoxy-5′-(4-nitro-phenylamino)-biphenyl-3-yl]-ethanone | 277 mg, 23% yield | COC1=C(C=C(C=C1)NC1=CC=C(C=C1)[N+](=O)[O-])C1=CC(=CC=C1)C(C)=O | C21H18N2O4
